US04918223
N-(2'-thienylacetyl)-D,L-cysteine
24.6 g (0.2 mole) thiophene-2-acetonitrile, 35.2 g (0.2 mole) D,L-cysteine hydrochloride monohydrate and 27.6 g (0.2 mole) potassium carbonate were heated in 500 ml methanol and 250 ml water for 6 hours at the boiling point. Then the solvent was removed under reduced pressure, the residue taken up in 200 ml water and adjusted with concentrated hydrochloric acid to pH 4. 40.8 g (83% of theory) colorless product with a melting point of 138°-140° C. precipitated.

reactant | thiophene-2-acetonitrile | 0.2 mole, 24.6 g | S1C(=CC=C1)CC#N | C6H5NS
reactant | D,L-cysteine hydrochloride monohydrate | 0.2 mole, 35.2 g | O.Cl.NC(CS)C(=O)O
reactant | potassium carbonate | 0.2 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 250 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | N-(2'-thienylacetyl)-D,L-cysteine | S1C(=CC=C1)CC(=O)NC(CS)C(=O)O | C9H11NO3S2
